US09340527B2
To the solution of 5-methoxy-2-nitrobenzoic acid (20 g, 1.0 mol) in THF (100 mL) was added BH3 (1.0 M in THF, 30.4 mL, 3.0 eq) at 0° C. The mixture was refluxed for 3 h, diluted with water (200 mL) and extracted with DCM (100 ml*3). The combined organic lays were dried over MgSO4, evaporated to afford (5-methoxy-2-nitrophenyl)methanol (18 g, yield: 97%), as a white solid. 1HNMR (400 MHz, DMSO-d6) δ: 8.13 (d, J=6.4 Hz, 1H), 7.34 (d, J=6.4 Hz, 1H), 7.02 (s, 1H), 5.60˜5.58 (m, 1H), 4.84 (d, J=8.0 Hz, 2H), 3.89 (s, 3H); ESI-MS: m/z 184.1 ([M+1]+).

reactant | 5-methoxy-2-nitrobenzoic acid | 1.0 mol, 20 g | COC=1C=CC(=C(C(=O)O)C1)[N+](=O)[O-] | C8H7NO5
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | water | 200 mL | O | H2O
product | (5-methoxy-2-nitrophenyl)methanol | 18 g, yield: 97% | COC=1C=CC(=C(C1)CO)[N+](=O)[O-] | C8H9NO4
